US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(5-pyrimidinylmethyl)-2(1H)-pyridinone
The title compound was prepared by a procedure similar to that described for E21 starting from 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyridinone and 5-(chloromethyl)pyrimidine. LC-MS (ESI): m/z 502 [M+H]+; 3.68 min (ret time).

reactant | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyridinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=CC(NC=C1)=O)C(F)(F)F | C20H15ClF3NO3
reactant | 5-(chloromethyl)pyrimidine | ClCC=1C=NC=NC1 | C5H5ClN2
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(5-pyrimidinylmethyl)-2(1H)-pyridinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=CC(N(C=C1)CC=1C=NC=NC1)=O)C(F)(F)F | C25H19ClF3N3O3
